US07541374B2
1.74 g of 3-phenyl-1H-pyrazole-1-ylmethanol was dissolved to 50 ml of dichloromethane. 3.4 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure. Hexane and chloroform was added to the residue to produce a crystal. The crystal was collected to obtain 2.01 g of 1-(chloromethyl)-3-phenyl-1H-pyrazole hydrochloride.

reactant | 3-phenyl-1H-pyrazole-1-ylmethanol | 1.74 g | C1(=CC=CC=C1)C1=NN(C=C1)CO | C10H10N2O
reactant | thionyl chloride | 3.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-phenyl-1H-pyrazole hydrochloride | 2.01 g | Cl.ClCN1N=C(C=C1)C1=CC=CC=C1 | InChI=1S/C10H9ClN2.ClH/c11-8-13-7-6-10(12-13)9-4-2-1-3-5-9;/h1-7H,8H2;1H
